US04767780
A solution of 6-chloro-1-cycloprop yl-carbonyl-4-oxo-1,2,3,4-tetrahydroquinoline (1.996 g), N,N-dimethylformamide dimethyl acetal (3.808 g), and triethylamine (1.212 g) in benzene (16 ml) was refluxed with stirring for 30 minutes and then about three-fourths of the solvent was distilled slowly at atmospheric pressure over a period of approximately 30 minutes. To the residue was added benzene (16 ml) and the solvent was distilled again. The residue was dissolved in ethyl acetate, treated with activated charcoal, and evaporated in vacuo. The residual sold was washed with diethyl ether to give 6-chloro-cyclopropyl-carbonyl-3-dimethylaminomethylene-4-oxo-1,2,3,4-tetrahydroquinoline (2.43 g).

reactant | 6-chloro-1-cycloprop yl-carbonyl-4-oxo-1,2,3,4-tetrahydroquinoline | 1.996 g | ClC=1C=C2C(CC(N(C2=CC1)C1CC1)=C=O)=O | C13H10ClNO2
reactant | N,N-dimethylformamide dimethyl acetal | 3.808 g | COC(N(C)C)OC | C5H13NO2
reactant | triethylamine | 1.212 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 16 ml | C1=CC=CC=C1 | C6H6
product | 6-chloro-cyclopropyl-carbonyl-3-dimethylaminomethylene-4-oxo-1,2,3,4-tetrahydroquinoline | 2.43 g | ClC=1C=C2C(C(CN(C2=CC1)C(=O)C1CC1)=CN(C)C)=O | C16H17ClN2O2
